US08877801B2
To a 30 mL vial containing 3-(4-bromophenoxy)-6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene (100 mg, 0.23 mmol) in DCM (1 mL) was added BBr3 (1 M in hexanes, 0.680 mL, 0.68 mmol) and the reaction mixture was stirred for 1 h at room temperature. Upon completion the reaction was quenched with 4 mL MeOH and stirred for 10 min. The mixture was the concentrated in vacuo onto silica gel and the crude material was purified by column chromatography (SiO2, 1-100% EtOAc/Heptane) to afford 3-(4-bromophenoxy)-2-(4-hydroxyphenyl)benzo[b]thiophen-6-ol (72 mg, 0.17 mmol, 77% yield) as a white solid. 1H NMR (400 MHz, CD3OD) δ ppm=7.47-7.57 (m, 2H), 7.35-7.45 (m, 2H), 7.20 (d, J=2.02 Hz, 1H), 7.16 (d, J=8.59 Hz, 1H), 6.73-6.90 (m, 5H).

reactant | 3-(4-bromophenoxy)-6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene | 0.23 mmol, 100 mg | BrC1=CC=C(OC=2C3=C(SC2C2=CC=C(C=C2)OC)C=C(C=C3)OC)C=C1 | C22H17BrO3S
reactant | BBr3 | 0.68 mmol, 1 M, 0.680 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-bromophenoxy)-2-(4-hydroxyphenyl)benzo[b]thiophen-6-ol | 0.17 mmol, 72 mg, 77% yield | BrC1=CC=C(OC=2C3=C(SC2C2=CC=C(C=C2)O)C=C(C=C3)O)C=C1 | C20H13BrO3S
